US04061761
26 g of freshly prepared N-nitroso-N-methyl urea were introduced portionwise at 0° to -5° C into a stirred two-phase mixture of 200 ml of diethyl ether (or diisopropyl ether) and 80 ml of 40% aqueous potassium hydroxide solution, the ice-cold etheral diazomethane solution was separated in the separating funnel and dried over a small amount of solid potassium hydroxide at -10° C during 3 hours. The dry solution of the diazomethane in diethyl ether (or diisopropyl ether) was cooled to -5° C to -10° C in a 500 ml three-neck flask provided with stirrer, inner thermometer and KOH drying tube. A suspension of 16.8 g of 4-bromo-3-sulfamoylbenzoyl chloride was added in small portions into 40 ml of anhydrous ethyl acetate, the temperature of the reaction mixture not being allowed to exceed +5° C. After the addition of 4-bromo-3-sulfamoylbenzoyl chloride stirring was continued for another 10 minutes at +5° C and the fair yellow crystalline precipitate of 4'-bromo-3'-sulfamoyl-diazoacetophenone was filtered off. The 4'-bromo-3'-sulfamoyl-diazoacetophenone so obtained was introduced without further purification in small portions into a stirred mixture cooled to 0° C of 30 ml of diethylene glycol dimethyl ether and 20 ml of concentrated HCl (37%). After nitrogen development had finished, stirring was continued for another 10 minutes at 0° C, 150 ml of water were added and after dwelling for 1 hour at 0° C the crystalline precipitate of 4'-bromo-3'-sulfamoyl-2-chloroacetophenone was filtered off. Colorless crystals, melting point: 152° C.

reactant | N-nitroso-N-methyl urea | N(=O)N(C(=O)N)C | C2H5N3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | potassium hydroxide | 80 ml | [OH-].[K+]
reactant | 4-bromo-3-sulfamoylbenzoyl chloride | 16.8 g | BrC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5BrClNO3S
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4'-bromo-3'-sulfamoyl-diazoacetophenone | BrC1=C(C=C(C=C1)C(C=[N+]=[N-])=O)S(N)(=O)=O | C8H6BrN3O3S
